US08404866B2
To a solution of 1.5 M HCl in ethyl acetate (1 mL) was added (±)-N-Boc-trans-3-(4-phenylbenzenesulfonamido)-4-tert-butylmercaptopyrrolidine (220 mg, 0.45 mmol) and the mixture was stirred until no starting material could be detected by TLC (50% ethyl acetate). The solvent was evaporated under reduced pressure and the residue was dissolved in CH2Cl2 (2 mL) and cooled to 0° C. To the solution was added triethylamine (69 μL, 0.50 mmol), HOBt.H2O (61 mg, 0.45 mmol), and 6-(tert-butoxy-carbonylamino)hexanoic acid (104 mg, 0.39 mmol) and DCC (92 mg, 0.45 mmol). The mixture was stirred overnight, then it was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (10 mL) and the organic layer was washed with 10% citric acid and sat. aq NaHCO3, then it was dried over Na2SO4 and evaporated. The residue was purified by flash chromatography (50% ethyl acetate in hexane) to give (±)-N-(6-(tert-butoxycarbonylamino)hexanoyl)-trans-3-(4-phenylbenzenesulfonamido)-4-tert-butylmercaptopyrrolidine (220 mg, 81%): 1H NMR (300 MHz, CDCl3) δ 7.94 (dd, J=9, 4, 2H), 7.75 (t, J=8, 2H), 7.61 (m, 2H), 7.46 (m, 3H), 5.21 (br s, 1H, NH), 4.56 (br s, 1H, NH), 3.77-4.11 (m, 2H), 3.02-3.49 (m, 6H), 2.22 (t, J=7, 2H), 1.63 (m, 2H), 1.49 (m, 2H), 1.44 (s, 9H), 1.36 & 1.29 (s, 9H), 1.25 (m, 2H); HRMS (ESI) calculated for C31H45N3O5S2Na+ 626.2698. found 626.2699.

reactant | HCl | 1.5 M | Cl | ClH
reactant | (±)-N-Boc-trans-3-(4-phenylbenzenesulfonamido)-4-tert-butylmercaptopyrrolidine | 0.45 mmol, 220 mg | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)SC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C25H34N2O4S2
reactant | triethylamine | 0.50 mmol, 69 μL | C(C)N(CC)CC | C6H15N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.45 mmol, 61 mg | O | H2O
reactant | 6-(tert-butoxy-carbonylamino)hexanoic acid | 0.39 mmol, 104 mg | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | DCC | 0.45 mmol, 92 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | (±)-N-(6-(tert-butoxycarbonylamino)hexanoyl)-trans-3-(4-phenylbenzenesulfonamido)-4-tert-butylmercaptopyrrolidine | 220 mg, 81% | C(C)(C)(C)OC(=O)NCCCCCC(=O)N1C[C@H]([C@@H](C1)SC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C31H45N3O5S2
